US06979696B2
To a cold solution of (3-Chloro-2-methyl-phenyl)-carbamic acid tert-butyl ester (5.0 g, 20.7 mmol) in anhydrous tetrahydrofuran (100 ml) at −40° C. under N2, was added a solution of s-butyl lithium (40 ml, 52 mmol, 1.3 M in cyclohexane) dropwise and maintained the reaction temperature below −30° C. To the bright yellow solution at −50° C. was added a solution of N-methoxy N-methylacetamide (2.33 g, 22.6 mmol) in anhydrous tetrahydrofuran (40 ml) dropwise and maintained the reaction temperature between −50° C. to −40° C. The mixture was allowed to warm to −10° C. over a period of 35 minutes and was then partitioned between diethyl ether and 0.3 N hydrochloric acid solution. The organic extract was washed with water and brine, dried (anhydrous sodium sulfate), and concentrated under reduced pressure. The residue was purified by flash column chromatography over silica gel eluting with 20% ethyl acetate in hexane to give crude [3-Chloro-2-(2-oxo-propyl)-phenyl]-carbamic acid tert-butyl ester (5.21 g) as a colorless oil.

reactant | (3-Chloro-2-methyl-phenyl)-carbamic acid tert-butyl ester | 20.7 mmol, 5.0 g | C(C)(C)(C)OC(NC1=C(C(=CC=C1)Cl)C)=O | C12H16ClNO2
reactant | s-butyl lithium | 52 mmol, 1.3 M, 40 ml | C(C)(CC)[Li]
reactant | N-methoxy N-methylacetamide | 22.6 mmol, 2.33 g | CON(C(C)=O)C | C4H9NO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | [3-Chloro-2-(2-oxo-propyl)-phenyl]-carbamic acid tert-butyl ester | 5.21 g | C(C)(C)(C)OC(NC1=C(C(=CC=C1)Cl)CC(C)=O)=O | C14H18ClNO3
